### PR TITLE
[Merged by Bors] - feat(Algebra/Homology): a factorization of morphisms of cochain complexes

### PR DESCRIPTION
**Pull request by joelriou**
Let `C` be an abelian category with enough injectives. We show that any morphism `f : K ⟶ L` between bounded below cochain complexes in `C` can be factored as `i ≫ p` where `i : K ⟶ L'` is a monomorphism (with `L'` bounded below) and `p : L' ⟶ L` a quasi-isomorphism that is an epimorphism with a degreewise injective kernel. (This is part of the factorization axiom CM5 for a model category structure on bounded below cochain complexes.)

(This shall be used in the formalization of right derived functors using injective resolutions.)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Homology/Factorizations/CM5b.lean [hunk 1]
```diff
@@ -0,0 +1,132 @@
...
+namespace CochainComplex
+
+variable {C : Type*} [Category C] [Abelian C] [EnoughInjectives C]
+  {K L : CochainComplex C ℤ} (f : K ⟶ L)
+
+namespace cm5b
+
+variable (K L) in
+/-- Given a cochain complex `K`, this is a cochain complex `I K` with
+zero differentials with in degree `n` consists of the injective
```
Comment (robin-carlier) [inline Mathlib/Algebra/Homology/Factorizations/CM5b.lean]:
```suggestion
zero differentials wich in degree `n` consists of the injective
```

File: Mathlib/Algebra/Homology/Factorizations/CM5b.lean [hunk 2]
```diff
@@ -0,0 +1,132 @@
...
+    let h₀ : Homotopy (𝟙 (mappingCone (𝟙 (I K)))) 0 :=
+      mappingCone.liftHomotopy _ _ _ (mappingCone.snd _) 0 (by simp) (by simp)
+    let h₁ := (h₀.compRight
+      (biprod.inl : _ ⟶ mappingCone (𝟙 (I K)) ⊞ L)).compLeft
+        (biprod.fst : mappingCone (𝟙 (I K)) ⊞ L ⟶ _)
+    let h₂ := Homotopy.add h₁ (Homotopy.refl (biprod.snd ≫ biprod.inr))
+    exact (Homotopy.ofEq (by simp [p])).trans (h₂.symm.trans (Homotopy.ofEq (by simp)))
+  homotopyInvHomId := Homotopy.ofEq (by simp)
+
+instance quasiIso_p : QuasiIso (p K L) := (homotopyEquiv K L).quasiIso_hom
```
Comment (robin-carlier) [inline Mathlib/Algebra/Homology/Factorizations/CM5b.lean]: Is it necessary to name this instance?

File: Mathlib/Algebra/Homology/Factorizations/CM5b.lean [hunk 3]
```diff
@@ -0,0 +1,132 @@
...
+
+variable (K L) in
+lemma degreewiseEpiWithInjectiveKernel_p :
+    degreewiseEpiWithInjectiveKernel (p K L) := by
+  intro n
+  rw [epiWithInjectiveKernel_iff]
+  refine ⟨(mappingCone (𝟙 (I K))).X n, inferInstance,
+    (biprod.inl :_ ⟶ (mappingCone (𝟙 (I K))) ⊞ L).f n, ?_,
+    ⟨⟨(biprod.fst : (mappingCone (𝟙 (I K))) ⊞ L ⟶ _).f n,
+    (biprod.inr :_ ⟶ (mappingCone (𝟙 (I K))) ⊞ L).f n, ?_, ?_, ?_⟩⟩⟩
```
Comment (robin-carlier) [inline Mathlib/Algebra/Homology/Factorizations/CM5b.lean]:
```suggestion
    (biprod.fst : (mappingCone (𝟙 (I K))) ⊞ L ⟶ _).f n,
    (biprod.inr :_ ⟶ (mappingCone (𝟙 (I K))) ⊞ L).f n, ?_, ?_, ?_⟩
```
If you prefer.

File: Mathlib/Algebra/Homology/Factorizations/CM5b.lean [hunk 4]
```diff
@@ -0,0 +1,132 @@
...
+  intro i hi
+  exact Injective.isZero_under _ (K.isZero_of_isStrictlyGE n i hi)
+
+instance (n : ℤ) [K.IsStrictlyGE (n + 1)] [L.IsStrictlyGE n] :
+    (mappingCone (𝟙 (I K)) ⊞ L).IsStrictlyGE n := by
+  rw [isStrictlyGE_iff]
+  intro i hi
+  refine IsZero.of_iso ?_ ((HomologicalComplex.eval C (ComplexShape.up ℤ) i).mapBiprod _ _)
+  dsimp
+  simp only [biprod_isZero_iff, mappingCone.isZero_X_iff, I_X]
```
Comment (robin-carlier) [inline Mathlib/Algebra/Homology/Factorizations/CM5b.lean]:
```suggestion
  simp only [HomologicalComplex.eval_obj, biprod_isZero_iff, mappingCone.isZero_X_iff, I_X]
```

here the `dsimp` is actually `dsimp only [HomologicalComplex.eval_obj]` so might as well cram it in the `simp only` below.

File: Mathlib/Algebra/Homology/Factorizations/CM5b.lean [hunk 5]
```diff
@@ -0,0 +1,132 @@
...
+  hom := p K L
+  inv := biprod.inr
+  homotopyHomInvId := by
+    let h₀ : Homotopy (𝟙 (mappingCone (𝟙 (I K)))) 0 :=
+      mappingCone.liftHomotopy _ _ _ (mappingCone.snd _) 0 (by simp) (by simp)
+    let h₁ := (h₀.compRight
+      (biprod.inl : _ ⟶ mappingCone (𝟙 (I K)) ⊞ L)).compLeft
+        (biprod.fst : mappingCone (𝟙 (I K)) ⊞ L ⟶ _)
+    let h₂ := Homotopy.add h₁ (Homotopy.refl (biprod.snd ≫ biprod.inr))
+    exact (Homotopy.ofEq (by simp [p])).trans (h₂.symm.trans (Homotopy.ofEq (by simp)))
```
Comment (robin-carlier) [inline Mathlib/Algebra/Homology/Factorizations/CM5b.lean]:
```suggestion
  homotopyHomInvId :=
    let h₀ : Homotopy (𝟙 (mappingCone (𝟙 (I K)))) 0 :=
      mappingCone.liftHomotopy _ _ _ (mappingCone.snd _) 0 (by simp) (by simp)
    let h₁ := (h₀.compRight
      (biprod.inl : _ ⟶ mappingCone (𝟙 (I K)) ⊞ L)).compLeft
        (biprod.fst : mappingCone (𝟙 (I K)) ⊞ L ⟶ _)
    let h₂ := Homotopy.add h₁ (Homotopy.refl (biprod.snd ≫ biprod.inr))
    (Homotopy.ofEq (by simp [p])).trans (h₂.symm.trans (Homotopy.ofEq (by simp)))
```

**Review by robin-carlier — COMMENTED** [review]
The only (very slight!) concern I have about this is the scalability of this `exists_presentation` pattern, but my concern is only slight because I can’t think of any other cases (in a totally general abelian category) that zero objects where we want to explicitly special-case extra properties of the chosen injective objects, so as long as we don’t keep stuffing `exists_presentation` with new special cases it should be fine.

Rest of the comments are very minor.

**Review by robin-carlier — COMMENTED** [review]
Thanks!

maintainer merge
